US06492368B1
Similarly to Example 1, reaction of 3-[4-(5-methyl[1,2,4]oxadiazol-3-yl)phenyl]-1-piperazin-1-ylpropan-1-one [obtainable from 3-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]-1-(4-tert-butyloxycarbonyl)piperazin-1-yl-propan-1-one by treatment with TFA/CH2Cl2] and 6-chloronaphthalene-2-sulphonyl chloride gives the compound 1-[4-(6-chloronaphthalene-2-sulphonyl)piperazin-1-yl]-3-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]propan-1-one and, after hydrogenation, 4-{3-oxo-3-[4-(6-chloronaphthalene-2-sulphonyl)piperazin-1-yl]propyl}benzamidine.

reactant | 3-[4-(5-methyl[1,2,4]oxadiazol-3-yl)phenyl]-1-piperazin-1-ylpropan-1-one | CC1=NC(=NO1)C1=CC=C(C=C1)CCC(=O)N1CCNCC1 | C16H20N4O2
reactant | 6-chloronaphthalene-2-sulphonyl chloride | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
product | 1-[4-(6-chloronaphthalene-2-sulphonyl)piperazin-1-yl]-3-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]propan-1-one | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(CCC1=CC=C(C=C1)C1=NOC(=N1)C)=O | C26H25ClN4O4S
